Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
poorly-controlled type 2 diabetes
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Patient is a ___ year old G670 at 9'0 by LMP c/w first trimester 
U/S who presents in consultation for diabetes, history of 
recurrent pregnancy loss, and history of PPROM at 20 weeks.

She reports that in ___, she had a pregnancy loss at 20 weeks. 
She had PPROM at home in ___, went to the hospital, was 
given antibiotics prophylactically, however was not informed 
whether or not she had an infection. She had an ultrasound the 
next day, which showed normal FHR. She went to work the next 
evening and had some cramping and bleeding, as well as headache 
and fever. She then presented to the ER, and about 8 hours later 
she had a SVD of a stillborn. She denies having any further 
work-up or testing. 9 days later, she underwent another 
ultrasound which showed ? retained products of conception, and 
underwent a procedure in the operating room. She then had 
another ultrasound which confirmed no further retained products. 
 

She was diagnosed with pre-diabetes when she came to ___ 
from ___ in ___, and was started on metformin. She self 
d/c-ed this about a year and a half ago and was transitioned to 
glyburide in ___, which she stopped last week after 
finding out she was pregnant. Her A1C was 9.3 on ___. She 
has never been on insulin in the past. She has been monitoring 
her blood sugars fasting, one hour after meals, which have 
ranged 188 to 300s.

She also had positive chlamydia on ___, and is s/p treatment 
with azithromycin. However had unprotected sex a few days ago 
with the same partner and was re-exposed, and she reports that 
her partner has not been treated. At that clinic visit she was 
also found to have asymptomatic bacteria, and was started on a 
course of cephalexin today. 

 
Past Medical History:
PNC:
- ___ ___ by LMP, c/w first trimester U/S
- Labs: Rh+/ab neg/RPRNR/RI/HBsAg neg/HIV neg
- Issues: see above
 
GYNHx:
- Abnormal Pap testing: last Pap drawn ___, result 
pending,
denies history of abnormal Pap
- contraception prior to pregnancy: none
- intramural fundal fibroid is noted measuring 1.9 x 1.5 x 1.8
- No history of endometriosis, gyn procedures
 
OBHx:

- SAB x 5 - beginning in ___. All early, first trimester 
losses,
with prior confirmation of positive pregnancy test. None with
D&C. 

- ___: PPROM at 20 weeks, stillbirth, retained products of
conception s/p D&C
 
PMH: Diabetes
 
PSH: D&C

 
Social History:
___
Family History:
Patient is ___ in descent. FOB is ___ in descent, 
named ___. Patient and FOB denied any family history of 
Down's syndrome, neural tube defects, thalassemia, clotting 
disorders, ___ disease, stillbirths, congenital 
anomalies, or mental retardation. On patient's paternal side, 
diabetes runs in the family, and on her maternal side, diabetes 
and hypertension run in the family. Denies family history 
uterine, breast, ovarian or colon cancers. 

 
Physical Exam:
Physical Exam on Discharge:  
 CONSTITUTIONAL: normal  
 HEENT: normal, MMM  
 NEURO: alert, appropriate, oriented x 4  
 RESP: no increased WOB  
 HEART: extremities warm and well perfused  
 ABDOMEN: gravid, non-tender  
 EXTREMITIES: non-tender, no edema  
 FHR: present at a normal rate  
 
Pertinent Results:
___ 01:50PM BLOOD WBC-8.4 RBC-4.12 Hgb-10.5* Hct-33.2* 
MCV-81* MCH-25.5* MCHC-31.6* RDW-14.8 RDWSD-43.1 Plt ___
___ 01:50PM BLOOD Plt ___
___ 06:05AM BLOOD Creat-0.6
___ 06:05AM BLOOD ALT-15 AST-16
___ 06:05AM BLOOD UricAcd-4.5
___ 06:05AM BLOOD HCV Ab-Negative
___ 06:05AM BLOOD
 
Brief Hospital Course:
Ms. ___ was admitted for poorly controlled type 2 diabetes 
at 9 weeks gestation. She was started on insulin and her blood 
sugars were monitored closely. She was followed by ___. She 
had an EKG which was normal sinus rhythm. She was found to have 
an elevated blood pressure, and her 24 hour urine protein was 
normal (230mg). For her history of recent chlamydia exposure, 
she was given azithromycin and she was a given an rx for 
expedited partner therapy. For her asymptomatic bacteuria, she 
was continued of Keflex for a total 5 day course. Her blood 
glucose improved during her hospitalization, and was 
persistently under 200, and she was discharged home with insulin 
and scheduled for outpatient follow-up with ___ and Maternal 
Fetal Medicine. 
 
Medications on Admission:
PNV, keflex
 
Discharge Medications:
1.  Cephalexin 500 mg PO Q12H Duration: 5 Days 
Please take the full course of this medication.  
RX *cephalexin 500 mg 1 tablet(s) by mouth twice daily Disp #*2 
Tablet Refills:*0 
2.  FreeStyle Freedom Lite (blood-glucose meter) 1 unit 
miscellaneous 4x/day 
RX *blood-glucose meter   Test BG 4x day Disp #*1 Kit Refills:*0 

3.  FreeStyle Lancets (lancets) 28 gauge miscellaneous 4x.day 
RX *lancets 21 gauge  Test BG 4x/day Disp #*100 Each Refills:*2 
4.  FreeStyle Lite Strips (blood sugar diagnostic)    
miscellaneous Q3H 
RX *blood sugar diagnostic [FreeStyle Lite Strips]  use per 
manufacturer's directions Test BG 4x/day Disp #*100 Strip 
Refills:*2 
5.  insulin syringe-needle U-100 ___ cc with 6mm needle (___)  
miscellaneous 4x/day 
RX *insulin syringe-needle U-100 31 gauge x ___  use to inject 
insulin 4x/day Disp #*100 Syringe Refills:*2 
6.  Humalog 10 Units Breakfast
Humalog 10 Units Lunch
Humalog 10 Units Dinner
NPH 12 Units Breakfast
NPH 22 Units Bedtime
RX *insulin lispro [Humalog] 100 unit/mL AS DIR 10 Units before 
BKFT; 10 Units before LNCH; 10 Units before DINR; Disp #*1 Vial 
Refills:*2
RX *insulin NPH human recomb [Humulin N] 100 unit/mL AS DIR 12 
Units before BKFT; 22 Units before BED; Disp #*1 Vial Refills:*2 

7.  Ketostix (acetone (urine) test) 1 unit miscellaneous 4x/day 
RX *acetone (urine) test [Ketostix]   Use as directed for BG 
>250 more than 2 times i a row Disp #*1 Bottle Refills:*1 
8.  Prenatal Vitamins 1 TAB PO DAILY 
RX *PNV,calcium 72-iron-folic acid [Prenatal Vitamin Plus Low 
Iron] 27 mg iron-1 mg 1 tablet(s) by mouth daily Disp #*60 
Tablet Refills:*5 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Type II diabetes, isolated elevated blood pressure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear. Ms. ___,
  
You were admitted to the hospital for diabetes and elevated 
blood pressures. Your blood sugars and blood pressures were 
monitored overnight and you were started on insulin. Your urine 
collection was done for 24 hours, and we will call you with this 
result. We think it is now safe for you to go home. Please 
follow the instructions below:  

*) Diabetes
- Please follow up with ___ during your pregnancy. Their 
office will call you for a follow-up appointment.
- Please check your blood sugars as directed and take your 
insulin as prescribed.
- Please present to your Opthamology appointment for an eye 
examination, as scheduled below. 

*) Chlamydia
- You were given a prescription for expedited partner therapy 
for your partner. Please fill this prescription and have him 
take the medication right away.
- Use condoms or abstain from sex for 7 days.
- You will be retested in a few months.

*) UTI
- Please take your antibiotic as prescribed (last day of ___

*) General Instructions:
 
- Attend all appointments with your obstetrician and ___, as 
well as all fetal scans  
- Monitor for the following danger signs:  
 - headache that is not responsive to medication  
 - abdominal pain  
 - increased swelling in your legs  
 - vision changes  
 - Worsening, painful or regular contractions  
 - Vaginal bleeding  
 - Leakage of water or concern that your water broke  
 - Nausea/vomiting  
 - Fever, chills  
 - Other concerns  

It was a pleasure taking care of you!
 
Followup Instructions:
___